US09376422B2
To a stirred solution of methyl 3-amino-5-bromo-2-methylbenzoate (5 g, 20.6 mmol) and tert-butyl (4-oxocyclohexyl)carbamate (5.6 g, 26.7 mmol) in methanol (50 mL) was added acetic acid (1.2 g, 20.6 mmol) and the mixture was stirred at room temperature for 3 h. Then sodium cyanoborohydride (1.6 g, 26.7 mmol) was added and the reaction stirred overnight. On completion, the solvent was removed under reduced pressure and the product purified by column chromatography to afford compound methyl 5-bromo-3-((4-((tert-butoxycarbonyl)amino)cyclohexyl)amino)-2-methylbenzoate (3 g, 33.3%).

reactant | methyl 3-amino-5-bromo-2-methylbenzoate | 20.6 mmol, 5 g | NC=1C(=C(C(=O)OC)C=C(C1)Br)C | C9H10BrNO2
reactant | tert-butyl (4-oxocyclohexyl)carbamate | 26.7 mmol, 5.6 g | O=C1CCC(CC1)NC(OC(C)(C)C)=O | C11H19NO3
reactant | acetic acid | 20.6 mmol, 1.2 g | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 26.7 mmol, 1.6 g | C(#N)[BH3-].[Na+]
solvent | methanol | 50 mL | CO | CH4O
product | methyl 5-bromo-3-((4-((tert-butoxycarbonyl)amino)cyclohexyl)amino)-2-methylbenzoate | 3 g, 33.3% | BrC=1C=C(C(=C(C(=O)OC)C1)C)NC1CCC(CC1)NC(=O)OC(C)(C)C | C20H29BrN2O4
